US03975367
Preparation of 1-(5'-O-palmitoyl-β-D-arabinofuranosyl)-N4 -[N-[N-[N-(tert-butoxycarbonyl)glycyl]glycyl]-L-phenylalanyl]cytosine
A solution consisting of 4.82 g. (0.01 mole) 1-(5'-O-palmitoyl-β-D-arabinofuranosyl)cytosine and a solvent mixture consisting of equal parts dimethylformamide and dioxane was obtained by warming slightly. This solution was cooled to 5° C. and 3.8 g. (0.01 mole) N-[N-[N-(tertbutoxycarbonyl)glycyl]glycyl]-L-phenylalanine was added, followed by 2.47 g. (0.012 mole) dicyclohexylcarbodiimide. This reaction mixture was stirred continuously for 4 days while the temperature was maintained at 5° C. The reaction mixture was then filtered in order to remove the dicyclohexylurea that had formed. The solvents were removed from the filtrate by evaporation under reduced pressure. The residual oil thus obtained was dissolved in 25 ml. diethyl ether, and the ether solution was set aside in a refrigerator for about 16 hrs. Some solids that separated were removed by filtering, and the filtrate was concentrated to a glass by removing the ether by evaporation. The glassy residue was dissolved in 50 ml. of a solvent system consisting of 72 parts methyl ethyl ketone, 20 parts acetone, and 8 parts water, and the solution was poured onto a column of silica gel 45 mm. × 115 cm. amounting to 800 g. which had been equilibrated with this same solvent. The chromatogram was developed with about 100 ml. of the solvent mixture, and then 10 ml. fractions were collected. After combining fractions 75 through 105, and concentrating the solution by evaporation of the solvents under reduced pressure, the concentrate was lyophilized. There was thus obtained 4.0 g. of 1-(5'-O-palmitoyl-β-D-arabinofuranosyl)-N4 -[N-[N-[N-(tert-butoxycarbonyl)glycyl]glycyl]-L-phenylalanyl]cytosine having optical rotation [α]D25 = +46° (c 1.1 in methanol)

reactant | 1-(5'-O-palmitoyl-β-D-arabinofuranosyl)cytosine | 0.01 mole | C(CCCCCCCCCCCCCCC)(=O)OC[C@@H]1[C@H]([C@@H]([C@@H](O1)N1C(=O)N=C(N)C=C1)O)O | C25H43N3O6
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | N-[N-[N-(tertbutoxycarbonyl)glycyl]glycyl]-L-phenylalanine | 0.01 mole | C(C)(C)(C)OC(=O)NCC(=O)NCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C18H25N3O6
reactant | dicyclohexylcarbodiimide | 0.012 mole | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | ether | CCOCC | C4H10O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1-(5'-O-palmitoyl-β-D-arabinofuranosyl)-N4 -[N-[N-[N-(tert-butoxycarbonyl)glycyl]glycyl]-L-phenylalanyl]cytosine | C(CCCCCCCCCCCCCCC)(=O)OC[C@@H]1[C@H]([C@@H]([C@@H](O1)N1C(=O)N=C(NC([C@@H](NC(CNC(CNC(=O)OC(C)(C)C)=O)=O)CC2=CC=CC=C2)=O)C=C1)O)O | C43H66N6O11
